US07399867B2
Combine 4-bromo-2-fluoro-1-methylsulfanyl-benzene (4.8 g, 22 mmol) and sodium methanethiolate (1.6 g, 22 mmol) in DMF (50 mL). Stir for 48 hours. Pour the reaction mixture into ice (10 g). Separate the layers and wash the organic layer with aqueous saturated NaHCO3 and brine. Dry with MgSO4, filter and concentrate in vacuo. Chromatograph the residue on a column eluting with diethyl ether in hexane (0 to 5%) to give 4.82 g of 4-bromo-1,2-bis-methylsulfanylbenzene (89%).

reactant | 4-bromo-2-fluoro-1-methylsulfanyl-benzene | 22 mmol, 4.8 g | BrC1=CC(=C(C=C1)SC)F | C7H6BrFS
reactant | sodium methanethiolate | 22 mmol, 1.6 g | C[S-].[Na+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 4-bromo-1,2-bis-methylsulfanylbenzene | 4.82 g, 89% | BrC1=CC(=C(C=C1)SC)SC | C8H9BrS2
